US07176227B2
Synthesis of (3-nitro-benzyl)dipropylamine
Commercially available 3-nitrobenzylamine hydrochloride (manufactured by Tokyo Kasei Kogyo Co., Ltd.) (1.62 g) was suspended in chloroform (15 ml) and then added with a 1 mol/l sodium hydroxide aqueous solution (15 ml). The aqueous layer was extracted with chloroform and the extract was then dried with anhydrous magnesium sulfate, followed by distilling the solvent off. Subsequently, the residue was dissolved in anhydrous methanol (25 ml) and then added with propionaldehyde (1.49 ml), trimethyl orthoformate (2.82 ml), and sodium cyanoborohydride (1.62 g), followed by stirring at room temperature for 2 hours. After completion of the reaction, the solvent was distilled off. Then, the residue was added with water and extracted with chloroform. The extract was dried with anhydrous magnesium sulfate and the solvent was then distilled off. The residue was purified through silica gel column chromatography (hexane/ethyl acetate), thereby obtaining the subject compound (608.1 mg) as a yellow oily substance.

reactant | 3-nitrobenzylamine hydrochloride | 1.62 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
reactant | sodium hydroxide | 1 mol/l, 15 ml | [OH-].[Na+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | (3-nitro-benzyl)dipropylamine | 608.1 mg | [N+](=O)([O-])C=1C=C(CN(CCC)CCC)C=CC1 | C13H20N2O2
